US06930208B2
Step 2: 2-Chloro-3-(2-allyloxyiminopropyloxy)-4-ethanesulfonylbenzoic acid
0.540 g (about 1.40 mmol) of methyl 2-chloro-3-(2-allyloxyiminopropyloxy)-4-ethanesulfonylbenzoate and 0.061 g (1.50 mmol) of NaOH were reacted analogously to preparation c).

reactant | methyl 2-chloro-3-(2-allyloxyiminopropyloxy)-4-ethanesulfonylbenzoate | about 1.40 mmol, 0.540 g | ClC1=C(C(=O)OC)C=CC(=C1OCC(C)=NOCC=C)S(=O)(=O)CC | C16H20ClNO6S
reactant | NaOH | 1.50 mmol, 0.061 g | [OH-].[Na+]
product | 2-Chloro-3-(2-allyloxyiminopropyloxy)-4-ethanesulfonylbenzoic acid | ClC1=C(C(=O)O)C=CC(=C1OCC(C)=NOCC=C)S(=O)(=O)CC | C15H18ClNO6S
